US09126931B2
2-[1-(2-Bromo-4-methoxyphenyl)-1-methylethyl]benzofuran
Mixture comprising 2-(2-bromo-4-methoxyphenyl)-propan-2-ol (100 mg), 2,3-benzofuran (0.19 ml) and polyphosphoric acid (1 g) was stirred and heated at 90° C. for 30 min. The reaction mixture was added with water and extracted with DCM. The residues obtained after concentration under reduced pressure were purified by silica gel column (DCM/hexane) to obtain the title compound (143 mg, 51%).

reactant | 2-(2-bromo-4-methoxyphenyl)-propan-2-ol | 100 mg | BrC1=C(C=CC(=C1)OC)C(C)(C)O | C10H13BrO2
reactant | 2,3-benzofuran | 0.19 ml | C1=CC=C2C(=C1)C=CO2 | C8H6O
solvent | water | O | H2O
product | 2-[1-(2-Bromo-4-methoxyphenyl)-1-methylethyl]benzofuran | 143 mg, 51% | BrC1=C(C=CC(=C1)OC)C(C)(C)C=1OC2=C(C1)C=CC=C2 | C18H17BrO2
